US06610692B1
Step A: 6-Methyl-5-benzimidazole Carboxylic Acid
A 1L three neck round bottom flask equiped with an addition funnel and condenser was charged with a solution of 5,6-dimethylbenzimidazole (2.00 g, 13.69 mmol) dissolved in water (400 mL). The mixture was warmed to reflux and KMnO4 (8.60 g, 54.4 mmol) dissolved in water (200 mL) was added over a 0.5 h period. The reaction stirred for 0.5 h at reflux and was filtered hot through a plug a celite, washed with water (2×100 mL), acidified to pH 1 with 3N HCl and concentrated to 50 mL volume. The solution was aged for 2 h, filtered, washed with cold water and the solid was dried overnight at 50° C. under 25 mm vacuum to provide a white solid:

reactant | 5,6-dimethylbenzimidazole | 13.69 mmol, 2.00 g | CC1=CC2=C(N=CN2)C=C1C | C9H10N2
reactant | KMnO4 | 54.4 mmol, 8.60 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 400 mL | O | H2O
reactant | water | 200 mL | O | H2O
product | 6-Methyl-5-benzimidazole Carboxylic Acid | CC=1C(=CC2=C(N=CN2)C1)C(=O)O | C9H8N2O2
